US07790882B2
Trifluoromethanesulfonic acid 7-methoxy-1-[4-((R)-1-phenylethylamino)-phthalazin-1-yl]naphthalen-2-yl ester
A solution of trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-yl ester (2.2 g, 4.7 mmol) in (R)-1-phenylethylamine (3.5 ml, 27 mmol) was stirred for 8 hrs at 130° C., then cooled to 23° C. The resulting viscous mixture was purified by flash chromatography on silica gel (toluene/EtOAc 5:1 to 3:1) to give 2.1 g (3.8 mmol) of the title compound as a 1:1 mixture of diastereomers as a light brown foam.

reactant | trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-7-methoxynaphthalen-2-yl ester | 4.7 mmol, 2.2 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=C(C=C12)OC)OS(=O)(=O)C(F)(F)F | C20H12ClF3N2O4S
reactant | (R)-1-phenylethylamine | 27 mmol, 3.5 ml | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
product | Trifluoromethanesulfonic acid 7-methoxy-1-[4-((R)-1-phenylethylamino)-phthalazin-1-yl]naphthalen-2-yl ester | 3.8 mmol, 2.1 g | COC1=CC=C2C=CC(=C(C2=C1)C1=NN=C(C2=CC=CC=C12)N[C@H](C)C1=CC=CC=C1)OS(=O)(=O)C(F)(F)F | C28H22F3N3O4S
